US04550104
A mixture of 9.0 g (30 mmol) of 8-chloro-7-fluoro-5-oxo-1,2-dihydro-5H-thiazolo[3,2-a]quinoline-4-carboxylic acid, 8.37 g (45 mmol) of 3-(t-butoxycarbonylamino)pyrrolidine and 100 ml of pyridine is heated at reflux for 18 hours. The solvent is removed in vacuo and the residue triturated with water. The solid which forms is removed by filtration, washed with water and dried in vacuo to give 7-fluoro-8-[3(-t-butoxycarbonylamino)-1-pyrrolidinyl]-5-oxo-1,2-dihydro-5H-thiazolo[3,2-a]quinoline-4-carboxylic acid.

reactant | 8-chloro-7-fluoro-5-oxo-1,2-dihydro-5H-thiazolo[3,2-a]quinoline-4-carboxylic acid | 30 mmol, 9.0 g | ClC1=C(C=C2C(C(=C3N(C2=C1)CCS3)C(=O)O)=O)F | C12H7ClFNO3S
reactant | 3-(t-butoxycarbonylamino)pyrrolidine | 45 mmol, 8.37 g | C(C)(C)(C)OC(=O)NC1CNCC1 | C9H18N2O2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 7-fluoro-8-[3(-t-butoxycarbonylamino)-1-pyrrolidinyl]-5-oxo-1,2-dihydro-5H-thiazolo[3,2-a]quinoline-4-carboxylic acid | FC=1C=C2C(C(=C3N(C2=CC1N1CC(CC1)NC(=O)OC(C)(C)C)CCS3)C(=O)O)=O | C21H24FN3O5S
